US06992087B2
Preparation of (4Z)-5-propyl-6,7-dihydro-1-benzothiophen-4(5H)-one oxime
Following the procedure for the preparation of (4E)-2,3-dihydro-4H-chromen-4-one oxime but substituting 5-propyl-6,7-dihydro-1-benzothiophen-4(5H)-one and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ) 7.98, 7.28, 7.15, 7.10, 3.55, 2.99-2.81, 2.21-1.83, 1.59-1.31, 0.95-0.90; (MS/CI) calcd for C10H13NOS+H 195.3, found 195.7.

reactant | (4E)-2,3-dihydro-4H-chromen-4-one oxime | O1CC\C(\C2=CC=CC=C12)=N/O | C9H9NO2
reactant | 5-propyl-6,7-dihydro-1-benzothiophen-4(5H)-one | C(CC)C1CCC2=C(C=CS2)C1=O | C11H14OS
product | (4Z)-5-propyl-6,7-dihydro-1-benzothiophen-4(5H)-one oxime | C(CC)C/1CCC2=C(C=CS2)\C1=N/O | C11H15NOS
